US08349849B2
To a 2 L flask cooled by ice water was added 60 g LiAlH4, and 1 L of THF. When the mixture was cooled to below 10° C., a mixture of 118.8 grams of ethyl 2-amino-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propanoate and 350 mL THF was added dropwise. No starting material remained by HPLC. The temperature was kept below 30° C. while 100 mL ethyl acetate was added. To the concentrated mixture was added 400 mL ethyl acetate, followed by 25 mL ice water. The mixture was filtered, and the filter cake with 300 mL ethyl acetate. The combined organic layers washed with brine 100 mL×2, dried with Na2SO4, decolorized with carbon and concentrated. To the oil, was added ether, the mixture stirred for overnight, filtered and dried to afford 50 g of 2-amino-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propan-1-ol.

reactant | LiAlH4 | 60 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | ethyl 2-amino-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propanoate | 118.8 grams | NC(C(=O)OCC)(C)C1CC2=CC=C(C=C2CC1)OC | C16H23NO3
reactant | THF | 350 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propan-1-ol | 50 g | NC(CO)(C)C1CC2=CC=C(C=C2CC1)OC | C14H21NO2
